US08669271B2
4-(2,5-Dichloro-pyrimidin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (1.73 g), 2,4,5-trichloro-pyrimidine (0.86 mL), Pd(PPh3)2Cl2 (105 mg), and copper iodide (29 mg) in triethylamine (15 mL) under an argon atmosphere is heated in a microwave oven at 100° C. for 40 min. The solvent is evaporated in vacuo and 1 N citric acid is added. The mixture is extracted with dichloromethane and the combined extracts are washed with water, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 85:15→80:20) to give the title compound. LC (method 7): tR=1.55 min; Mass spectrum (ESI+): m/z=356 [M+H]+.

reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 1.73 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | 2,4,5-trichloro-pyrimidine | 0.86 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 105 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 29 mg | [Cu](I)I
product | 4-(2,5-Dichloro-pyrimidin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC(=NC=C1Cl)Cl | C16H19Cl2N3O2
